US08614215B2
Intermediate 100: 3,5-Dimethylisoxazole-4-sulfonamide
3,5-Dimethylisoxazole-4-sulfonyl chloride (4.3 g; 21.8 mmol; 1 eq) is dissolved in THF (10 mL), ammonia in MeOH (55 mL; 2 M; 109 mmol; 5 eq) is added and the reaction is stirred for 1 h at room temperature. The reaction mixture is concentrated under reduced pressure and the residue is taken up in 100 mL of EtOAc. The organic phase is washed with a saturated aqueous solution of NH4Cl (100 mL) then dried over MgSO4. The solvent is removed under reduced pressure, affording 2.6 g (67%) of the title compound as a white solid. 1H NMR (DMSO-d6) δ 7.59 (s, 2H), 2.56 (s, 3H), 2.34 (s, 3H). HPLC (max plot) 96.5%; Rt 1.22 min.

reactant | 3,5-Dimethylisoxazole-4-sulfonyl chloride | 21.8 mmol, 4.3 g, 1 eq | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
reactant | ammonia | N | H3N
reactant | MeOH | 109 mmol, 2 M, 55 mL, 5 eq | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3,5-Dimethylisoxazole-4-sulfonamide | 2.6 g, 67% | CC1=NOC(=C1S(=O)(=O)N)C | C5H8N2O3S
